US07491748B2
(2R)-3-aza-2-phenyl-4-(3,5-dimethylphenyl)but-3-en-1-ol
A solution of 3,5-dimethylbenzaldehyde (30.0 g) and (R)-phenylglycinol (30.7 g) in toluene (200 ml) was refluxed for 3 hours with removing water. The reaction solution was concentrated to give the title compound (59.7 g) having the following physical data.

reactant | 3,5-dimethylbenzaldehyde | 30.0 g | CC=1C=C(C=O)C=C(C1)C | C9H10O
reactant | (R)-phenylglycinol | 30.7 g | C1=CC=C(C=C1)C(CO)N | C8H11NO
reactant | water | O | H2O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (2R)-3-aza-2-phenyl-4-(3,5-dimethylphenyl)but-3-en-1-ol | 59.7 g | C1(=CN=CC=C1)[C@H](CO)C=CC1=CC(=CC(=C1)C)C | C17H19NO
